US04021441
In the manner given in Example 31, 8-chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine, potassium iodide and allylamine in tetrahydrofuran are reacted to give 8-chloro-1-[(allylamino)-methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3F)F)C1 | C17H10Cl2F2N4
reactant | potassium iodide | [I-].[K+]
reactant | allylamine | C(C=C)N | C3H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-chloro-1-[(allylamino)-methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC=C)C3=C(C=CC=C3F)F)C1 | C20H16ClF2N5
